US04233453
1-Iodo-4-propadienyl-4-trimethylsilyloxy-trans-octene
To a stirred solution of 2.36 g. (10 mmol.) of 4-propadienyl-4-trimethylsilyloxy-1-octyne in 5 ml. of glyme is added a solution of 11 mmol. of bis-(3-methyl-2-butyl)borane in 15 ml. of glyme at 0° C. The mixture is stirred at 25° C. for 90 minutes, cooled to 0° C., and treated portionwise with 3.0 g. of triethylamine oxide. The stirred mixture is maintained at 25°-30° C. for 45 minutes, diluted with 20 ml. of tetrahydrofuran and poured into 100 ml. of ice-cold 15% sodium hydroxide solution, followed immediately with a solution of 8.0 g. of iodine in 20 ml. of tetrahydrofuran. The mixture is stirred at ambient temperature for 30 minutes and then extracted with ether. The extract is washed successively with water, sodium thiosulfate solution and brine; dried over magnesium sulfate; and filtered. The residue obtained after solvent evaporation is subjected to chromatography on silica gel with heptane solvent to afford the title compound as a liquid.

reactant | 4-propadienyl-4-trimethylsilyloxy-1-octyne | 10 mmol | C(=C=C)C(CC#C)(CCCC)O[Si](C)(C)C | C14H24OSi
reactant | bis-(3-methyl-2-butyl)borane | CC(C(C)BC(C)C(C)C)C | C10H23B
reactant | triethylamine oxide | C(C)[N+](CC)(CC)[O-] | C6H15NO
reactant | iodine | II | I2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | glyme | C(OC)COC | C4H10O2
product | 1-Iodo-4-propadienyl-4-trimethylsilyloxy-trans-octene | I\C=C\CC(CCCC)(O[Si](C)(C)C)C=C=C | C14H25IOSi
